US04795748
Pentafluorophenyl 4-acetoxybenzoate
A solution of 10.8 g of 4-acetoxybenzoyl chloride in dry acetonitrile was treated with 10 g of pentafluorophenol, and stirred at 0° C. whilst 4.4 ml of pyridine was added dropwise. The solution was permitted to warm to room temperature then heated to reflux temperature until the reaction was complete. Solvent was evaporated in vacuo and the residue obtained partitioned between ethyl acetate and water. The organic solution was washed with further portions of water and brine and dried over magnesium sulphate. Evaporation afforded 18 g of the title compound.

reactant | 4-acetoxybenzoyl chloride | 10.8 g | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | pentafluorophenol | 10 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | pyridine | 4.4 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | C(C)#N | C2H3N
product | Pentafluorophenyl 4-acetoxybenzoate | 18 g | C(C)(=O)OC1=CC=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1 | C15H7F5O4
